US04806549
Ethyl 2-benzoyl-3-(2-methoxyphenylamino)acrylate (6.0 g, 0.018 mol) was added in portions to boiling diphenyl ether (100 ml) and heated under reflux for 45 minutes. The reaction mixture was allowed to cool and diluted with petroleum ether to afford the crystalline 3-benzoyl-8-methoxy-4(1H)-quinolone (4.7 g, 91%).

reactant | Ethyl 2-benzoyl-3-(2-methoxyphenylamino)acrylate | 0.018 mol, 6.0 g | C(C1=CC=CC=C1)(=O)C(C(=O)OCC)=CNC1=C(C=CC=C1)OC | C19H19NO4
solvent | diphenyl ether | 100 ml | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
product | 3-benzoyl-8-methoxy-4(1H)-quinolone | 4.7 g, 91% | C(C1=CC=CC=C1)(=O)C1=CNC2=C(C=CC=C2C1=O)OC | C17H13NO3
